US06503907B2
In analogy to example 3.3, 5-(4-Bromo-butoxy)-1-(4-fluoro-phenyl)-1H-indole and methylamine were converted to yield {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-amine as colorless crystalline, mp 49-50° C., MS: 313 (MH+).

reactant | 5-(4-Bromo-butoxy)-1-(4-fluoro-phenyl)-1H-indole | BrCCCCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C18H17BrFNO
reactant | methylamine | CN | CH5N
product | {4-[1-(4-Fluoro-phenyl)-1H-indol-5-yloxy]-butyl}-methyl-amine | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OCCCCNC | C19H21FN2O
